US06323199B1
2-[2-(5-Fluoro-2-methoxyphenyl)-2-methyl-propyl]-2-trifluoromethyl-oxiran
3.5 g of 2-hydroxy-4-(5-fluoro-2-methoxyphenyl)-4-methyl-2-trifluoromethyl-pentanol and 3.45 g of triphenylphosphine are dissolved in 50 ml of tetrahydrofuran and mixed in 3 portions at 0° C. with 2.5 ml of azodicarboxylic acid-diethyl ester. After one hour at 0° C., it is stirred for 16 more hours at room temperature, then refluxed for 7 hours and again stirred for 48 hours at room temperature. After concentration by evaporation, a hexane-isopropylether mixture is added, filtered, and the filtrate is chromatographed on silica gel. The product that is eluted with hexane/ethyl acetate is distilled on a bulb tube, boiling point 100° C./0.5 mbar.

reactant | 2-hydroxy-4-(5-fluoro-2-methoxyphenyl)-4-methyl-2-trifluoromethyl-pentanol | 3.5 g | OC(CO)(CC(C)(C)C1=C(C=CC(=C1)F)OC)C(F)(F)F | C14H18F4O3
reactant | triphenylphosphine | 3.45 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | azodicarboxylic acid-diethyl ester | 2.5 ml | C(C)OC(=O)N=NC(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-[2-(5-Fluoro-2-methoxyphenyl)-2-methyl-propyl]-2-trifluoromethyl-oxiran | FC=1C=CC(=C(C1)C(CC1(OC1)C(F)(F)F)(C)C)OC | C14H16F4O2
